US08802673B2
To a stirred solution of (+)-(R)-tert-butyl 2-(4-bromo-2-fluorophenyl)morpholine-4-carboxylate (4.3 g) and benzophenone imine (2.2 ml) in toluene (20 ml) was added sodium tert-butoxide (1.84 g). The reaction mixture was purged with argon for 10 min. (R)-(+)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (743 mg) and tris(dibenzylideneacetone)dipalladium(0) (328 mg) were added and the reaction mixture was heated to 90° C. and stirred for 90 min. The reaction mixture was poured into water and extracted twice with EtOAc. The organic layers were dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel; gradient: 0% to 40% EtOAc in hexanes) to afford (R)-tert-butyl 2-(4-(diphenylmethyleneamino)-2-fluorophenyl)morpholine-4-carboxylate 5.95 g, quant.) as a yellow amorphous solid. MS (ISP): 461.2 ([M+H]+).

reactant | (+)-(R)-tert-butyl 2-(4-bromo-2-fluorophenyl)morpholine-4-carboxylate | 4.3 g | BrC1=CC(=C(C=C1)[C@@H]1CN(CCO1)C(=O)OC(C)(C)C)F | C15H19BrFNO3
reactant | benzophenone imine | 2.2 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 1.84 g | CC(C)([O-])C.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-tert-butyl 2-(4-(diphenylmethyleneamino)-2-fluorophenyl)morpholine-4-carboxylate | 5.95 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=CC(=C(C=C1)[C@@H]1CN(CCO1)C(=O)OC(C)(C)C)F | C28H29FN2O3
